US09126969B2
742 mg of 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde are added to a solution of 680 mg of 4-(4-methylpiperazino)-1,2-benzenediamine in 30 mL of methanol. The reaction medium is stirred at 22° C. for 3 hours. The reaction medium is heated at 60° C. using an oil bath for 1H30, and then stirred at 22° C. for 64 hours. After evaporation, the reaction crude is purified by flash chromatography on an Intelliflash apparatus on an Analogix RS-12 cartridge. The elution is carried out in dichloromethane containing 10% methanol. 370 mg of 6-(4-methylpiperazin-1-yl)-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-1H-benzimidazole are isolated. Analytical LC/MS: tr=1.88 min; [M+H]+=412.32; ELSD=97%; DAD=93%. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 1.50 to 2.23 (m, 6H); 2.25 (s, 3H); 2.50 (m masked, 4H); 3.14 (m, 4H); 3.70 (m, 1H); 4.00 (m, 1H); 5.59 (broad d, J=9.5 Hz, 1H); from 6.90 to 7.15 (m, 2H); from 7.39 to 7.54 (m, 1H); 9.17 (s, 1H); from 12.5 to 12.7 (m, 1H).

reactant | 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde | 742 mg | [N+](=O)([O-])C=1C(=NN(C1)C1OCCCC1)C=O | C9H11N3O4
reactant | 4-(4-methylpiperazino)-1,2-benzenediamine | 680 mg | CN1CCN(CC1)C=1C=C(C(=CC1)N)N | C11H18N4
solvent | methanol | 30 mL | CO | CH4O
product | 6-(4-methylpiperazin-1-yl)-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-1H-benzimidazole | 370 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C1 | C20H25N7O3
